simulator lang=spectre
global 0

ahdl_include "./dut/variable_gain_differential_amplifier.va"

Vp (sigin_p 0) vsource type=pwl wave=[0 0.05 8n 0.05 8.1n 0.55 18n 0.55 18.1n 0.80 28n 0.80 28.1n 0.35 45n 0.35]
Vn (sigin_n 0) vsource dc=0.45
Vcp (sigctrl_p 0) vsource type=pwl wave=[0 1.45 8n 1.45 8.1n 1.45 18n 1.45 18.1n 1.65 28n 1.65 28.1n 0.95 45n 0.95]
Vcn (sigctrl_n 0) vsource dc=0.45

XDUT (sigin_p sigin_n sigctrl_p sigctrl_n sigout) variable_gain_differential_amplifier


tran tran stop=40n maxstep=25p
save sigctrl_n sigctrl_p sigin_n sigin_p sigout
