simulator lang=spectre
global 0

ahdl_include "./dut/xor_phase_detector.va"

Vref (ref 0) vsource type=pwl wave=[0 0 0.8n 0 0.85n 1.2 1.6n 1.2 1.65n 1.2 2.4n 1.2 2.45n 0 3.2n 0]
Vfb (fb 0) vsource type=pwl wave=[0 0 0.8n 0 0.85n 0 1.6n 0 1.65n 1.2 2.4n 1.2 2.45n 1.2 3.2n 1.2]
XDUT (ref fb up down) xor_phase_detector

simulatorOptions options evas_profile=balanced

tran tran stop=3.0n maxstep=5p
save ref fb up down
