simulator lang=spectre
global 0

ahdl_include "./dut/dac_ideal_4b_offset.va"

Vdin0 (din0 0) vsource type=pwl wave=[0 0 7.95n 0 8n 1.0 17.95n 1.0 18n 0 27.95n 0 28n 1.0]
Vdin1 (din1 0) vsource type=pwl wave=[0 1.0 17.95n 1.0 18n 0 27.95n 0 28n 1.0]
Vdin2 (din2 0) vsource type=pwl wave=[0 0 7.95n 0 8n 1.0 27.95n 1.0 28n 1.0]
Vdin3 (din3 0) vsource type=pwl wave=[0 0 17.95n 0 18n 1.0 27.95n 1.0 28n 1.0]

XDUT (din0 din1 din2 din3 dout) dac_ideal_4b_offset


tran tran stop=40n maxstep=20p
save din0 din1 din2 din3 dout
