simulator lang=spectre
global 0

ahdl_include "./dut/pfd_updn.va"

Vvdd (vdd 0) vsource dc=0.82 type=dc
Vvss (vss 0) vsource dc=0.10 type=dc

Vref (ref 0) vsource type=pwl wave=[ \
    0    0 \
    20n  0.9 \
    30n  0 \
    40n  0.9 \
    50n  0 \
    60n  0.9 \
    70n  0 \
    80n  0.9 \
    90n  0 \
    100n 0.9 \
    110n 0 \
    120n 0.9 \
    130n 0 \
    140n 0.9 \
    150n 0 \
    160n 0.9 \
    170n 0 \
    180n 0.9 \
    190n 0 \
    200n 0.9 \
    210n 0 \
    220n 0.9 \
    230n 0 \
    240n 0.9 \
    250n 0 \
    260n 0.9 \
    270n 0 \
    280n 0.9 \
    290n 0 \
    300n 0 \
]
Vdiv (div 0) vsource type=pwl wave=[ \
    0      0 \
    20.2n  0.9 \
    30.2n  0 \
    40.2n  0.9 \
    50.2n  0 \
    60.2n  0.9 \
    70.2n  0 \
    80.2n  0.9 \
    90.2n  0 \
    100.2n 0.9 \
    110.2n 0 \
    120.2n 0.9 \
    130.2n 0 \
    139.8n 0.9 \
    149.8n 0 \
    159.8n 0.9 \
    169.8n 0 \
    179.8n 0.9 \
    189.8n 0 \
    199.8n 0.9 \
    209.8n 0 \
    219.8n 0.9 \
    229.8n 0 \
    239.8n 0.9 \
    249.8n 0 \
    259.8n 0.9 \
    269.8n 0 \
    279.8n 0.9 \
    289.8n 0 \
    300n    0 \
]

IDUT (vdd vss ref div up dn) pfd_updn vth=0.45 tedge=20p

simulatorOptions options reltol=1e-4 vabstol=1e-6 iabstol=1e-12 temp=27 tnom=27 gmin=1e-12


tran tran stop=300n maxstep=5n errpreset=conservative
save vdd vss ref div up dn
