simulator lang=spectre
global 0

ahdl_include "./dut/sar_cdac_residue.va"

Vvin (vin 0) vsource type=pwl wave=[0 0.30 50n 0.30]
Vclk (clk 0) vsource type=pwl wave=[0 0 5.9n 0 6n 0.9 8n 0.9 8.1n 0 50n 0]
Vs6 (s6 0) vsource type=pwl wave=[0 0.9 11.9n 0.9 12n 0 50n 0]
Vs5 (s5 0) vsource type=pwl wave=[0 0 17.9n 0 18n 0.9 50n 0.9]
Vs4 (s4 0) vsource type=pwl wave=[0 0 23.9n 0 24n 0.9 50n 0.9]
Vs3 (s3 0) vsource type=pwl wave=[0 0 29.9n 0 30n 0.9 50n 0.9]
Vs2 (s2 0) vsource type=pwl wave=[0 0 35.9n 0 36n 0.9 50n 0.9]
Vs1 (s1 0) vsource type=pwl wave=[0 0 41.9n 0 42n 0.9 50n 0.9]

XDUT (vin clk s6 s5 s4 s3 s2 s1 vres) sar_cdac_residue


tran tran stop=48n maxstep=25p
save vin clk s6 s5 s4 s3 s2 s1 vres
